US07157488B2
6-Methanesulfonyl-1H-indole
Dissolve 6-Methanesulfonyl-indol-1-ol (5.0 g, 23.7 mmol) in triethyl phosphite (35 ml) and heat at 160° C. for 5 hours. Cool the solution to ambient temperature and dilute with diethyl ether. Wash the ether solution with brine and water followed by drying (sodium sulfate) and reducing to residue. Crystallize the residue from warm ethyl acetate to give the title compound as colorless cubes: mp 149–152° C. MS (ACPI): m/e 196.0 (M+1). Analysis for C9H9NO2S: Calcd: C, 55.37; H, 4.65; N, 7.17; found: C, 55.14; H, 4.71; N, 7.20.

reactant | 6-Methanesulfonyl-indol-1-ol | 23.7 mmol, 5.0 g | CS(=O)(=O)C1=CC=C2C=CN(C2=C1)O | C9H9NO3S
solvent | triethyl phosphite | 35 ml | P(OCC)(OCC)OCC | C6H15O3P
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-Methanesulfonyl-1H-indole | CS(=O)(=O)C1=CC=C2C=CNC2=C1 | C9H9NO2S
